US04113689
bis(3,3-dichloropropenyl)adipate - Preparation:
62 g of 1,1,3-trichloro-propene, prepared according as described in Example 1, were reacted with 36.6 g of potassium adipate for 6 hours at 135° C. in the presence of 2 g of triethylamine and 0.3 g of potassium iodide. The reaction product was then washed and freed of the low-boiling components by means of distillation under vacuum. By a successive molecular distillation (120° C./10-4 mm Hg) 47 g of a substance were obtained which on elementary analysis showed the following composition:

reactant | 1,1,3-trichloro-propene | 62 g | ClC(=CCCl)Cl | C3H3Cl3
reactant | potassium adipate | 36.6 g | C(CCCCC(=O)[O-])(=O)[O-].[K+].[K+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
product | bis(3,3-dichloropropenyl)adipate | ClC(C=COC(CCCCC(=O)OC=CC(Cl)Cl)=O)Cl | C12H14Cl4O4
